US05643878
e) 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid
Analogously to Example 1i), 0.502 g (1.00 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(phenylmethyl)-dihydrofuran-2-(3H)-one in 16 ml of dimethoxyethane and 8.6 ml of water are hydrolysed with 4 ml of 1M lithium hydroxide solution. The reaction mixture, partially concentrated by evaporation, is poured onto a mixture of ice, 49 ml of sat. NH4Cl solution, 4.1 ml of 10% citric acid solution and methylene chloride, and ethanol is added until the precipitated solid has dissolved. The aqueous phase is extracted with 2 portions of methylene chloride/ethanol approximately 9:1, and the organic phases are washed with brine, dried with Na2SO4 and concentrated by evaporation: TLC Rf (A)=0.22.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(phenylmethyl)-dihydrofuran-2-(3H)-one | 1.00 mmol, 0.502 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=CC=C1 | C31H35NO5
reactant | lithium hydroxide | 1M, 4 ml | [OH-].[Li+]
solvent | dimethoxyethane | 16 ml | C(OC)COC | C4H10O2
solvent | water | 8.6 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H37NO6
